US06217793B1
{circle around (4)}: A mixture comprising 2.0 g of (S)-4-[4′-(1″-methylnonylcarbonyloxy)phenyloxycarbonyl]-1-benzyloxybenzene, 0.2 g of palladium/carbon and 10 g of ethyl acetate was stirred for 6 hours under hydrogen atmosphere. Then, palladium/carbon was filtered off, followed by distilling off ethyl acetate from the filtrate. The resultant residue was recrystallized from hexane, whereby 1.4 g of (S)-4-[4′-(1″-methylnonylcarbonyloxy)phenyloxycarbonyl]phenol was obtained in the form of a colorless crystal.

reactant | (S)-4-[4′-(1″-methylnonylcarbonyloxy)phenyloxycarbonyl]-1-benzyloxybenzene | 2.0 g | C[C@@H](CCCCCCCC)C(=O)OC1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H36O5
catalyst | palladium/carbon | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 10 g | C(C)(=O)OCC | C4H8O2
product | (S)-4-[4′-(1″-methylnonylcarbonyloxy)phenyloxycarbonyl]phenol | 1.4 g | C[C@@H](CCCCCCCC)C(=O)OC1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)O | C24H30O5
